US07452911B2
3.37b 4-bromo-N1-(2-pyrrolidin-1-yl-ethyl)-benzene-1,2-diamine
100 mg Raney Nickel are added to a solution of 1.00 g (3.18 mmol) (4-bromo-2-nitro-phenyl)-(2-pyrrolidin-1-yl-ethyl)-amine in 100 mL MeOH. The reaction solution is stirred for 15 min at 3 bar H2 and RT. After filtration the solvent is eliminated i.vac. and the product is further reacted without purification.

reactant | (4-bromo-2-nitro-phenyl)-(2-pyrrolidin-1-yl-ethyl)-amine | 3.18 mmol, 1.00 g | BrC1=CC(=C(C=C1)NCCN1CCCC1)[N+](=O)[O-] | C12H16BrN3O2
catalyst | Raney Nickel | 100 mg | [Ni] | Ni
solvent | MeOH | 100 mL | CO | CH4O
product | 4-bromo-N1-(2-pyrrolidin-1-yl-ethyl)-benzene-1,2-diamine | BrC=1C=C(C(=CC1)NCCN1CCCC1)N | C12H18BrN3
